US08629137B2
1-[6′-benzyloxy-4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
785 mg (3.60 mmol) 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one and 500 mg (1.22 mmol) 6-(2-benzyloxy-6-chloro-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one (mixture) were combined in 5 mL NMP and stirred overnight at 120° C. The reaction mixture was purified by preparative HPLC. The fractions containing the product were combined and evaporated down. The residue was triturated with DIPE, suction filtered, washed with DIPE and dried.

reactant | 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one | 3.60 mmol, 785 mg | N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C11H14N4O
reactant | 6-(2-benzyloxy-6-chloro-pyridine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 1.22 mmol, 500 mg | C(C1=CC=CC=C1)OC1=NC(=CC(=C1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C)Cl | C22H17ClN2O4
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | 1-[6′-benzyloxy-4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | C(C1=CC=CC=C1)OC1=CC(=CC(=N1)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O)C(=O)C2=CC1=C(N(C(O1)=O)C)C(=C2)C | C33H30N6O5
